### ISSUE TITLE
`instance_wanted` doesn't work after a chained `instance_wanted`

### ISSUE THREAD

**Issue by riccardobrasca** [leanprover/std4#1910]
When one `instance_wanted` depends on an earlier one (its class takes the earlier class as an instance argument), every `instance_wanted` registered **after** the chained one can no longer be found by typeclass inference.

Minimal example:

```lean
import Batteries.Util.ProofWanted

class Pointed (a : Type) where point : a
class DoublePointed (a : Type) [Pointed a] where second : a
class Stupid (a : Type) [Pointed a] : Prop where stupid : True

def_wanted W : Type

instance_wanted : Pointed (❰W❱)
instance_wanted : DoublePointed (❰W❱)
instance_wanted : Stupid (❰W❱)

theorem_wanted foo : True := by
  have : Stupid (❰W❱) := by infer_instance --error
  trivial
```

Here is an analysis made by Claude (feel free to ignore it, I am not competent enough to judge it).

The auto-include loop in `elabWanted` gives `instStupid` a binder for `instDoublePointed` that
re-quantifies the `Pointed` dependency from scratch (`#print` with `pp.explicit`):

```lean
private def instStupid : {d_W : @DefWanted.Val Type W} →
  [d_instPointed : {d_W : @DefWanted.Val Type W} → @DefWanted.Val (Pointed d_W) (@instPointed d_W)] →
    [{d_W : @DefWanted.Val Type W} →
          [d_instPointed : {d_W : @DefWanted.Val Type W} → @DefWanted.Val (Pointed d_W) (@instPointed d_W)] →
            @DefWanted.Val (@DoublePointed d_W (@d_instPointed d_W)) (@instDoublePointed d_W d_instPointed)] →
      DefWanted (@Stupid d_W (@d_instPointed d_W))
```

In `foo`, synthesizing `Stupid d_W✝` applies the local instance `d_instStupid✝`, whose chained
premise becomes the subgoal

```
{d_W : W.Val} → [d_instPointed : {d_W : W.Val} → instPointed.Val] → instDoublePointed.Val
```

The only candidate is `foo`'s own `d_instDoublePointed✝` binder — syntactically of the very same
type — yet `tryResolve` fails (`set_option trace.Meta.synthInstance true`):

```
[Meta.synthInstance.apply] ❌️ apply d_instDoublePointed✝ to {d_W : W.Val} →
      [d_instPointed : {d_W : W.Val} → instPointed.Val] → instDoublePointed.Val
  [Meta.synthInstance.tryResolve] ❌️ instDoublePointed.Val ≟ DoublePointed ?m.18
    [Meta.synthInstance] ✅️ {d_W : W.Val} →
          [d_instPointed : {d_W : W.Val} → instPointed.Val] → {d_W : W.Val} → instPointed.Val
      ...
      [Meta.synthInstance] result fun {d_W} [{d_W : W.Val} → instPointed.Val] => d_instPointed✝
```

The reason: the subgoal's conclusion is
`DefWanted.Val (@DoublePointed d_W (@d_instPointed d_W)) (…)`, where `d_instPointed` is the
subgoal's **own Π-bound** instance binder. Matching the candidate requires unifying
`@DoublePointed d_W (@d_instPointed d_W)` with `@DoublePointed ?w (@?ip ?w)`, and when `isDefEq`
reaches the instance-implicit `?ip`, `synthPending` fires and resolves it against the ambient
local instances, committing `?ip := d_instPointed✝` (the theorem-level binder) — a different fvar
from the subgoal's Π-bound one. The two sides then fail to unify, the premise is unsolvable, and
since every later wanted's `d_instStupid✝`/`d_instSimple✝` binder carries this premise, those
instances can never be applied.

The problem is the Π-re-quantification encoding itself, not `DefWanted`. Batteries-free
distillation of the generated binder structure, failing identically:

```lean
class Pointed (a : Type) where point : a
class DoublePointed (a : Type) [Pointed a] where second : a
class Stupid (a : Type) [Pointed a] : Prop where stupid : True

example (V : Type)
    [d_iP : {w : Type} → Pointed w]
    [d_iDP : {w : Type} → [ip : {x : Type} → Pointed x] → @DoublePointed w (@ip w)]
    [d_iS : {w : Type} → [ip : {x : Type} → Pointed x] →
            [idp : {w' : Type} → [ip' : {x : Type} → Pointed x] → @DoublePointed w' (@ip' w')] →
            @Stupid w (@ip w)] : True := by
  have : @Stupid V (@d_iP V) := by infer_instance  -- fails
  trivial
```

## Possible fix

Instead of Π-quantifying an auto-included binder over *all* of the referenced wanted's own binders
(`classifyWantedRef`/`mkBinderSyn`), saturate the binders that correspond to wanteds already bound
in the enclosing signature with those enclosing binders. `nameToHypRef` already tracks that
correspondence, and registration order guarantees dependencies are bound first. For `instStupid`
the chained binder would become

```lean
[{w : W.Val} → DefWanted.Val (@instDoublePointed w d_instPointed)]
```

referring to the sibling `d_instPointed` binder. The saturated encoding synthesizes fine:

```lean
example (V : Type)
    [d_iP : {w : Type} → Pointed w]
    [d_iDP : {w : Type} → @DoublePointed w (@d_iP w)]
    [d_iS : {w : Type} → @Stupid w (@d_iP w)] : True := by
  have : @Stupid V (@d_iP V) := by infer_instance        -- ok
  have : @DoublePointed V (@d_iP V) := by infer_instance -- ok
  trivial
```

**Comment by Chessing234** [comment]
Fixing in a PR with #1911.

**Comment by Chessing234** [comment]
PR #1914.

**Comment by Chessing234** [comment]
Opened a PR that saturates already-bound wanteds instead of re-quantifying them.

**Comment by fgdorais** [comment]
Closed by #1861 and #1914
